US08053581B2
Step 2: Preparation of 3-cyclohexyl-1-(4-methoxy-phenyl)-propan-1-one
To a 250 ml three-necked flask were added 5.00 g (28.74 mmol) in theoretical amount of 3-cyclohexylpropionyl chloride prepared in the step 1, 3.11 g (28.74 mmol) methylphenyl ether and 150 ml dichloromethane. The resulting mixture was cooled in ice salt bath to −5° C., added portionwise 3.83 g (28.74 mmol) anhydrous AlCl3 under stirring, upon the completion of addition. The mixture was stirred at room temperature for 2 hours, poured into a mixture (150 g ice+5 ml concentrated hydrochloric acid), the organic layer was separated, concentrated under a reduced pressure to about 10 ml, the aqueous layer was extracted with ethyl acetate 2×50 ml, the organic phase was combined, washed with saturated aqueous sodium bicarbonate solution and then with saturated brine, dried over anhydrous magnesium sulfate, filtrated and concentrated to obtain a pale brown solid, which was recrystallized with petroleum ether to obtain a 5.6 g product as a white solid in a yield of 79.1%, mp: 64-65 └. 1H-NMR (CDCl3, 400 MHz) δ: 0.85˜1.00 (2H, m, CH2), 1.10˜1.40 (4H, m, 2×CH2), 1.61˜1.1.82 (7H, m), 2.92 (2H, t, J=7.56 Hz, COCH2), 3.87 (3H, s, OCH3), 6.23 (2H, d, J=8.68 Hz, ArH), 7.94 (2H, d, J=8.68 Hz, ArH); ESI-MS m/e (%): 269.2 (M+Na, 100), 247.2 (M+1, 71).

reactant | 3-cyclohexylpropionyl chloride | C1(CCCCC1)CCC(=O)Cl | C9H15ClO
reactant | methylphenyl ether | 28.74 mmol, 3.11 g | COC1=CC=CC=C1 | C7H8O
reactant | AlCl3 | 28.74 mmol, 3.83 g | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 3-cyclohexyl-1-(4-methoxy-phenyl)-propan-1-one | 5.6 g, yield of 79.1% | C1(CCCCC1)CCC(=O)C1=CC=C(C=C1)OC | C16H22O2
